US05801049
200 mg of the compressed yeast obtained in step (2) above is added to 2 ml of 50 mM sucrose solution (0.1M acetic acid-sodium acetate buffer, pH 4.7), and the mixture is incubated at 25° C. for 5 minutes. The resultant reaction mixture is put in boiling water at 100° C. for 1 minute to thereby terminate the reaction, following by cooling. The concentration of glucose produced in the reaction mixture is measured using Biosensor BF-2 (manufactured by KS. SYSTEMS Co., Ltd., Japan) with glucose selective electrodes and a 50 mM phosphate buffer (pH 7.0). The obtained glucose concentration is intrapolated against a calibration curve prepared using a standard invertase (invertase Grade VII from Baker's Yeast, manufactured by SIGMA Chemical Company, U.S.A.), to thereby determine the invertase activity per g of the compressed yeast. When the compressed yeast has a water content which is slightly higher than or lower than 67% (e.g., 60%, 70% or the like), the obtained invertase activity value is corrected so as to comply with that of compressed yeast having a water content of 67% by weight and a solids content of 33% by weight by the following formula: ##EQU2##

reactant | sucrose | 50 mM, 2 ml, pH 4.7 | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
solvent | water | O | H2O
product | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
